US07005439B2
Thiophene-2-carboxylic acid (2-{3-[3-(4-chloro-phenoxy)-pyrrolidin-1-yl]-2-hydroxy-propoxy}-phenyl)-amide
To a solution of 80 uL 0.2M 2-thiophenecarboxylic acid in NMP were HBTU (80 uL, 0.2M/NMP), HoBT (80 uL, 0.2M/NMP), DIEA (30 uL, 0.5M/NMP) and pyridine (30 uL, 0.5M/NMP) added and stirred for 30 minutes before 1-[(2-aminophenyl)oxy]-3-{3-[(4-chlorophenyl)oxy]-1-pyrrolidinyl}-2-propanol (75 uL, 0.2M/NMP) was added. The mixture was stirred overnight at room temperature before it was concentrated under reduced pressure to dryness. The product was diluted with 1000 uL dichloromethane and washed with with sat.NaHCO3/aq (800 uL), 1.81% HCl/aq(800 uL) and sat. NaCl/aq. The organic layer was concentrated under reduced pressure to dryness and used without further purification. Yield 3.6mg, 51%

reactant | 2-thiophenecarboxylic acid | 0.2M, 80 uL | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | HBTU | 0.2M, 80 uL | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.5M, 30 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[(2-aminophenyl)oxy]-3-{3-[(4-chlorophenyl)oxy]-1-pyrrolidinyl}-2-propanol | 0.2M, 75 uL | NC1=C(C=CC=C1)OCC(CN1CC(CC1)OC1=CC=C(C=C1)Cl)O | C19H23ClN2O3
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | pyridine | 0.5M, 30 uL | N1=CC=CC=C1 | C5H5N
product | Thiophene-2-carboxylic acid (2-{3-[3-(4-chloro-phenoxy)-pyrrolidin-1-yl]-2-hydroxy-propoxy}-phenyl)-amide | ClC1=CC=C(OC2CN(CC2)CC(COC2=C(C=CC=C2)NC(=O)C=2SC=CC2)O)C=C1 | C24H25ClN2O4S
